US07470750B2
In a 150 ml Schlenk vessel, N,N′-dimesitylethanediimine (2.92 g; 10 mmol) was dissolved in 30 ml of THF under nitrogen as protective gas and the solution was cooled to −78° C. 1.6 M Butyllithium in hexane (13.8 ml; 22 mmol) was then slowly added to the resulting suspension at −78 ° C. The reaction mixture was warmed to −10° C. over a period of one hour and was stirred at this temperature for a further hour. The solvent was then taken off and 15 ml of diethyl ether and 10 ml of water were then added on an ice bath. The aqueous layer was extracted with 2×5 ml of ether and the combined extracts were dried over powdered NaOH. Taking off the solvent left an orange oil. The crude product was chromatographed on a silica gel column (50 g) and eluted with petroleum ether/toluene (1:1). Taking off the solvent gave yellow crystals of dl-N,N′-dimesityldecane-5,6-diamine (2.67 g; 65%).

reactant | N,N′-dimesitylethanediimine | 10 mmol, 2.92 g | C1(=C(C(=CC(=C1)C)C)N=CC=NC1=C(C=C(C=C1C)C)C)C | C20H24N2
reactant | Butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 22 mmol, 13.8 ml | CCCCCC | C6H14
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | N,N′-dimesityldecane-5,6-diamine | 2.67 g, 65% | C1(=C(C(=CC(=C1)C)C)NC(CCCC)C(CCCC)NC1=C(C=C(C=C1C)C)C)C | C28H44N2
